US07601844B2
A 4M solution of HCl in dioxane (8 mL) was added to (R)-tert-butyl 1-(4-(4-chlorophenyl)piperidin-1-yl)-1-oxobutan-2-ylcarbamate (0.46 g) and the resulting solution was allowed to stir at rt. for 1.5 h. After this time, the solvent was removed by rotary evaporation to provide an oil. The oil was dried overnight in vacuo to provide (R)-2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)butan-1-one hydrochloride. MS found: (M+H)+=281.

reactant | HCl | Cl | ClH
reactant | (R)-tert-butyl 1-(4-(4-chlorophenyl)piperidin-1-yl)-1-oxobutan-2-ylcarbamate | 0.46 g | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H](CC)NC(OC(C)(C)C)=O)=O | C20H29ClN2O3
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)-2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)butan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)CC | InChI=1S/C15H21ClN2O.ClH/c1-2-14(17)15(19)18-9-7-12(8-10-18)11-3-5-13(16)6-4-11;/h3-6,12,14H,2,7-10,17H2,1H3;1H/t14-;/m1./s1
